US04703054
1-(2-Acetamidoacetyl)-2,2-dimethyl-4-imidazolidinone
A suspension of 1-(2-aminoacetyl)-2.2-dimethyl-4-imidazolidinone (5 g) in acetic anhydride (20 ml) was stirred at room temperature for 1 hour. Evaporation under vacuum and crystallization of the residue from 2-propanol gave 4.63 g of the title compound, m.p. 214°-215° C.

reactant | 1-(2-aminoacetyl)-2.2-dimethyl-4-imidazolidinone | 5 g | NCC(=O)N1C(NC(C1)=O)(C)C | C7H13N3O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(2-Acetamidoacetyl)-2,2-dimethyl-4-imidazolidinone | 4.63 g | C(C)(=O)NCC(=O)N1C(NC(C1)=O)(C)C | C9H15N3O3
